US06252061B1
Synthesis of 2-fluoro-2′-deoxyadenosine
DAPD (2 g, 7.5 mmol) was suspended in 170 mL dichloroethane/DMSO (4:1) and cooled to 0° C. under an inert atmosphere. To this is added antimony trifluoride (1.88 g, 10.5 mmol) and tert-butyl nitrite (1.85 ml, 1.6 g, 15.5 mmol) followed by stirring while allowing the reaction to warm to room temperature. Analysis of the reaction mixture by HPLC [Novapak C-18; 5% acetonitrile/water, 0.1M TEA, pH 7 with acetic acid] revealed a new peak which eluted at 6.4 min, indicating the synthesis of 2-fluoro-2′-deoxyadenosine with concomitant loss of starting material. The reaction was stirred overnight and quenched with triethylamine. The conversion to product by HPLC was 8%.

reactant | DAPD | 7.5 mmol, 2 g | C1=NC=2C(=NC(=NC2N1[C@H]3CO[C@H](O3)CO)N)N | C9H12N6O3
reactant | antimony trifluoride | 10.5 mmol, 1.88 g | [Sb](F)(F)F
reactant | tert-butyl nitrite | 15.5 mmol, 1.85 ml, 1.6 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | acetonitrile water | C(C)#N.O
solvent | dichloroethane DMSO | 170 mL | ClC(C)Cl.CS(=O)C
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-fluoro-2′-deoxyadenosine | FC=1N=C(C=2N=CN([C@H]3C[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12FN5O3
